US07732452B2
Step 1: 4-[2-(4-Iodo-phenoxy)-acetylamino]-thiophene-3-carboxylic acid methyl ester
To a solution of 4-(3-chloro-propionylamino)-thiophene-3-carboxylic acid methyl ester ([51486-30-7], 2.0 g, 8.6 mmol) in dimethylformamide (30 mL) was added potassium carbonate (1.77 g, 12.8 mmol) and 4-iodophenol (2.26 g, 10.3 mmol) and the reaction mixture was then stirred overnight at 90° C. To the reaction mixture was added ethyl acetate (approximately 30 mL). The solid was filtered and washed with ethyl acetate. The filtrate was then reduced in vacuo and dissolved in dichloromethane (approximately 50 mL). The solution was filtered again over charcoal and to the filtrate was added isopropylether. After reducing the solution slowly in vacuo the solid was filtered to yield the title compound (3.57 g, 79%).

reactant | 4-(3-chloro-propionylamino)-thiophene-3-carboxylic acid methyl ester | 8.6 mmol, 2.0 g | COC(=O)C1=CSC=C1NC(CCCl)=O | C9H10ClNO3S
reactant | potassium carbonate | 12.8 mmol, 1.77 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-iodophenol | 10.3 mmol, 2.26 g | IC1=CC=C(C=C1)O | C6H5IO
reactant | ethyl acetate | approximately 30 mL | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 4-[2-(4-Iodo-phenoxy)-acetylamino]-thiophene-3-carboxylic acid methyl ester | 3.57 g, 79% | COC(=O)C1=CSC=C1NC(COC1=CC=C(C=C1)I)=O | C14H12INO4S
